US09371473B2
Benzoyl Thiourea Propyltrimethoxysilane (“BTU-TMS”) Adduct
To a 250 mL 3-neck RBF equipped with a condenser, magnetic stirrer, thermo-probe, nitrogen purge and pressure-equilibrated addition funnel was added benzoyl isothiocyanate (25.0 g, 0.150 mol) followed by dichloromethane (100 mL). The reaction mixture was cooled in an ice-water bath to a temperature below 5° C., at which point 3-aminopropyl trimethoxysilane (27.7 g, 0.150 mol) and dichloromethane (100 mL) were added slowly over a period of time of 30 minutes. The ice-water bath was removed and the reaction mixture was stirred at room temperature under a nitrogen purge overnight. The reaction mixture was then concentrated in vacuo at a temperature of 40° C. to provide a clear red liquid. The liquid was dried to constant weight in vacuo at a temperature of 50° C. and a pressure of <1 mTorr in a 97% yield.

reactant | benzoyl isothiocyanate | 0.150 mol, 25.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 3-aminopropyl trimethoxysilane | 0.150 mol, 27.7 g | NCCC[Si](OC)(OC)OC | C6H17NO3Si
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Benzoyl Thiourea Propyltrimethoxysilane | 97% yield | C(CC)[Si](OC)(OC)OC.C(C1=CC=CC=C1)(=O)NC(=S)N | InChI=1S/C8H8N2OS.C6H16O3Si/c9-8(12)10-7(11)6-4-2-1-3-5-6;1-5-6-10(7-2,8-3)9-4/h1-5H,(H3,9,10,11,12);5-6H2,1-4H3
